US06291455B1
2-Bromoethanol (2.36 g, 19 mmol) was added dropwise to a mixture of 1-methylpiperazine (1.26 g, 13 mmol) and potassium carbonate (5.0 g, 36 mmol) in absolute ethanol (150 ml) and the mixture heated at reflux for 18 hours. The mixture was allowed to cool and the precipitates were removed by filtration and the solvent volatiles were removed by evaporation. The residue was treated with acetone/methylene chloride, the insolubles were removed by filtration and the solvent was removed from the filtrate by evaporation to give 1-(2-hydroxyethyl)-4-methylpiperazine (870 mg, 48%) as a light brown oil.

reactant | 2-Bromoethanol | 19 mmol, 2.36 g | BrCCO | C2H5BrO
reactant | 1-methylpiperazine | 13 mmol, 1.26 g | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 36 mmol, 5.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-(2-hydroxyethyl)-4-methylpiperazine | 870 mg, 48% | OCCN1CCN(CC1)C | C7H16N2O
